US05039672
4. More polar diasteromer of 1'-hydroxy-2,3-dihydro-6-fluoro-2-methyl-spiro-(4H-1-benzopyran-4,3'-pyrrolidine)-2'one
A solution of the more polar diastereomer of 1'-benzyloxy-2,3-dihydro-6-fluoro-2-methyl-spiro-(4H-1-benzopyran-4,3'-pyrrolidine)-2'-one (1.7 g) in methanol (75 mL) containing 10% palladium on carbon (350 mg) was stirred vigorously under hydrogen gas (1 atm). After 15 minutes, the mixture was filtered, and the filtrate was concentrated in vacuo. The title compound was obtained as needles following recrystallization from ethyl acetate hexanes (m.p. 205°-207° C., 840 mg).

reactant | 1'-benzyloxy-2,3-dihydro-6-fluoro-2-methyl-spiro-(4H-1-benzopyran-4,3'-pyrrolidine)-2'-one | 1.7 g | C(C1=CC=CC=C1)ON1C(C2(CC1)CC(OC1=C2C=C(C=C1)F)C)=O | C20H20FNO3
solvent | methanol | 75 mL | CO | CH4O
catalyst | palladium on carbon | 350 mg | [Pd] | Pd
product | 1'-hydroxy-2,3-dihydro-6-fluoro-2-methyl-spiro-(4H-1-benzopyran-4,3'-pyrrolidine)-2'one | ON1C(C2(CC1)CC(OC1=C2C=C(C=C1)F)C)=O | C13H14FNO3
